US07790724B2
b) 2-Cyclohex-1-enyl-pyridin-3-ylamine
A solution of 497.0 mg (2.43 mmol) of 2-cyclohex-1-enyl-3-nitro-pyridine (as prepared in the previous step) in EtOH (10 mL) and water (5 mL) was treated with AcOH (6 drops) and 679 mg (12.2 mmol) of Fe powder, and heated to 75° C. for 19 h. The mixture was diluted with EtOAc (30 mL) and washed with water (1×20 mL). The organic layer was dried (MgSO4) and concentrated in vacuo to afford 365 mg (86%) of the title compound as a pale yellow solid: Mass spectrum (ESI, m/z): Calcd. for C11H14N2, 175.1 (M+H), found 175.2.

reactant | 2-cyclohex-1-enyl-3-nitro-pyridine | 2.43 mmol, 497.0 mg | C1(=CCCCC1)C1=NC=CC=C1[N+](=O)[O-] | C11H12N2O2
reactant | water | 5 mL | O | H2O
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | AcOH | 6 drops | CC(=O)O | C2H4O2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Fe | 12.2 mmol, 679 mg | [Fe] | Fe
product | 2-Cyclohex-1-enyl-pyridin-3-ylamine | 365 mg, 86% | C1(=CCCCC1)C1=NC=CC=C1N | C11H14N2
